US08748440B2
2-(1-chloroethyl)-3-(2,4-dimethylphenyl)-3H-quinazolin-4-one;
In a similar manner as described above in Paragraph A, but replacing 2-(2-chloropropionylamino)benzoic acid with 5-bromo-2-(2-chloro-propionylamino)benzoic acid and p-anisidine with 4-methyl-phenylamine, the following compound was prepared:

reactant | 5-bromo-2-(2-chloro-propionylamino)benzoic acid | BrC=1C=CC(=C(C(=O)O)C1)NC(C(C)Cl)=O | C10H9BrClNO3
reactant | p-anisidine | COC1=CC=C(C=C1)N | C7H9NO
reactant | 4-methyl-phenylamine | CC1=CC=C(C=C1)N | C7H9N
product | 2-(1-chloroethyl)-3-(2,4-dimethylphenyl)-3H-quinazolin-4-one | ClC(C)C1=NC2=CC=CC=C2C(N1C1=C(C=C(C=C1)C)C)=O | C18H17ClN2O
